US05643932
A mixture of 500 mg of 2-(3,4-diethoxyphenyl)-4-(4-cyano-pyridyl)thiazole, 20 ml of ethanol and 17 ml of a 4% aqueous sodium hydroxide solution was refluxed for 16 hours with heating. The reaction mixture was allowed to stand. Then, 200 ml of water was added thereto. The mixture was extracted with 80 ml of dichromethane two times. The aqueous layer was made acidic (pH=about 3) with concentrated hydrochloric acid and extracted with 150 ml of ethyl acetate three times. The ethyl acetate layer was dried over anhydrous sodium sulfate and concentrated. The residue was recrystallized from ethyl acetate to obtain 290 mg of 2-(3,4-diethoxyphenyl)-4-(4-carboxy-2-pyridyl)thiazole.

reactant | 2-(3,4-diethoxyphenyl)-4-(4-cyano-pyridyl)thiazole | 500 mg | C(C)OC=1C=C(C=CC1OCC)C=1SC=C(N1)C1=NC=CC(=C1)C#N | C19H17N3O2S
reactant | ethanol | 20 ml | C(C)O | C2H6O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | 200 ml | O | H2O
product | 2-(3,4-diethoxyphenyl)-4-(4-carboxy-2-pyridyl)thiazole | 290 mg | C(C)OC=1C=C(C=CC1OCC)C=1SC=C(N1)C1=NC=CC(=C1)C(=O)O | C19H18N2O4S
